US09163020B2
N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 17(d). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (0.190 gm, 0.61 mmol) and 2-fluoroethanamine (0.077 g. 1.22 mmol), TEA (0.254 mL, 1.83 mmol) was added. After 3 min1-Propanephosphonic acid cyclic anhydride (0.484 g, 1.52 mmol) was added. The resulting reaction mixture was stirred at rt for 50 min. LCMS analysis confirmed the formation of required product. Reaction was diluted with DCM and water.DCM layer was extracted and washed with brine and dried over sodium sulphate and concentrated. Purification was performed on Waters RP system to get product N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (0.090 g, 41.4%). ES+MS m/z: 358.36. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.17-2.30 (3, 3 H) 2.40 (s, 3 H ) 3.59-3.73 (m, 1 H ) 3.73-3.83 (m, 1 H ) 3.94 (s, 3 H ) 4.50 (t, J=4.99 Hz, 1 H ) 4.66 (t, J=4.99 Hz, 1 H ) 5.64 (s, 2 H ) 7.76 (s, 1 H ) 8.15 (s, 1 H ) 8.35 (s, 1 H ) 8.42 (s, 1 H ) 8.87 (t, J=5.84 Hz, 1 H ).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.61 mmol, 0.190 gm | COC1=C(C(=NC=N1)CN1C=C(C2=NC=C(C=C21)C)C(=O)O)C | C16H16N4O3
reactant | 2-fluoroethanamine | 1.22 mmol, 0.077 g | FCCN | C2H6FN
product | N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | FCCNC(=O)C1=CN(C=2C1=NC=C(C2)C)CC2=NC=NC(=C2C)OC | C18H20FN5O2
